US04766131
A stirred suspension of N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride (11.9 g, 0.03 m) in chloroform (300 ml) under nitrogen at 0° C. was treated with triethylamine (3.5 g, 0.035 m) and then after 5 minutes with acetyl chloride (2.75 g, 0.035 m). The mixture was stirred for 1 hour, retreated with 3.5 g triethylamine and 2.75 g acetyl chloride and stirred an additional hour at 0°. Chloroform (50 ml) and then ether (100 ml) were added and the white solid precipitate collected by filtration, 13.9 g. The solid was dissolved in chloroform (250 ml), filtered to remove insoluble salts and the filtrate washed with cold 10% NaOH (200 ml) and cold water (2×200 ml) and dried over MgSO4. The solvent was carefully evaporated under vacuum at 20°. The residue was dissolved in 200 ml CHCl3 /100 ml ether, cooled in an ice-salt bath and slowly acidified with HCl gas. The precipitated solid was collected by filtration and recrystallized as above, filtering under nitrogen to protect the solid product from moisture and vacuum dried at 85° to give 3.8 g of N-(4-acetamidophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride, m.p. 150°-154°.

reactant | N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride | 11.9 g | Cl.Cl.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=C1
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.75 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.75 g | C(C)(=O)Cl | C2H3ClO
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | Chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-acetamidophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline hydrochloride | 3.8 g | Cl.C(C)(=O)NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=C1 | InChI=1S/C22H28N2O3.ClH/c1-15-20-14-22(27-4)21(26-3)13-18(20)10-12-24(15)11-9-17-5-7-19(8-6-17)23-16(2)25;/h5-8,13-15H,9-12H2,1-4H3,(H,23,25);1H
